US08791130B2
A mixture of N2-(2-chloro-4-(2H-tetrazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine (80 mg, 0.22 mmol), K2CO3 (45 mg, 0.32 mmol) and methyl iodide (15 uL, 0.24 mmol) in acetone (2 mL) was heated at 40° C. for 1 h. The mixture was cooled and filtered. The filtrate was concentrated under reduced pressure and the crude residue purified via silica gel column chromatography (0-100% ethyl acetate/isohexane) to give N2-(2-chloro-4-(2-methyl-2H-tetrazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine (58 mg, 70%). LCMS (10 cm_ESCI_Formic_MeCN): [MH+]=385 at 4.31 min. 1H NMR (400 MHz, CDCl3): δ 8.76 (d, J=8.7, 1H); 8.23-8.19 (m, 2H); 8.05 (dd, J=8.7, 2.0, 1H); 7.72 (s, 1H); 5.29 (s, 1H); 4.40 (s, 3H); 3.12 (d, J=4.7, 3H).

reactant | N2-(2-chloro-4-(2H-tetrazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 0.22 mmol, 80 mg | ClC1=C(C=CC(=C1)C=1N=NNN1)NC1=NC=C(C(=N1)NC)C(F)(F)F | C13H10ClF3N8
reactant | K2CO3 | 0.32 mmol, 45 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 0.24 mmol, 15 uL | CI | CH3I
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | N2-(2-chloro-4-(2-methyl-2H-tetrazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 58 mg, 70% | ClC1=C(C=CC(=C1)C=1N=NN(N1)C)NC1=NC=C(C(=N1)NC)C(F)(F)F | C14H12ClF3N8
